Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
Sore Throat  
 
Major Surgical or Invasive Procedure:
___ EGD
 
History of Present Illness:
___ with PMhx of HTN presents with chest pain and sore throat. 
Per patient, she notes that 2d PTA, she developed a foreign body 
sensation in her throat. She notes that since development, it is 
always there, and is associated with dysphagia and odynophagia. 
She denies issues with secretions, vomiting, nausea, 
hematemesis, abdominal pain, diarrhea, melena, BRBPR. She denies 
foreign body ingestion. She notes that she went to an outpatient 
GI appointment, where she was expecting definitive treatment, 
and elected to present to the ED as no endoscopy was planned for 
that day. It was recommended that she undergo GI consultation 
for possible esophageal spasm.  She denies a history of 
progressive dysphagia to solids or liquids. 

In the ED, initial vitals: 98.1 73 148/86 18 99% RA 
 
Labs were significant for  
- normal CBC, Chem7, BUN/Cr ___ (near Atrius baseline ___
- negative trop x 1

Imaging showed  
- CXR: poor inspiratory effort, ?cardiomegaly, cephalization of 
vasculature, ___, right hilar fullness, no effusions or 
focal infiltrates (my read)
 
In the ED, she received no medications.

Exam remarkable for ttp over sternum.

 
Past Medical History:
HTN  
IFGT  
HLD  
Obesity  
Depression  
Positive PPD  
 
Social History:
___
Family History:
Daughter required esophageal dilation for ?stricture in mid-___
 
Physical Exam:
ADMISSION
=========
VS:  98.3 132/79 66 18 95% RA 
GEN: Alert, lying in bed, no acute distress  
HEENT: Moist MM, anicteric sclerae, no conjunctival pallor  
NECK: Supple without LAD  
PULM: CTAB without wheeze or rhonchi  
COR: RRR (+)S1/S2 no m/r/g  
ABD: Soft, non-tender, non-distended  
EXTREM: Warm, well-perfused, no edema  
 
DISCHARGE
=========
Vitals: 98.3 135/76 60 18 96% ra
GEN: WDWN female in NAD
HEENT: anicteric, MOM, symmetric palatal elevation, no 
retropharyngeal edema, exudate
NECK: supple, JVP not elevated, no LAD, masses, fluctuance
LUNGS: clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: RRR, normal S1S2, no M/R/G
ABD: obese, soft, NT/ND, NABS
GU: no foley  
EXT: WWP, 2+ pulses, no cyanosis or edema  
NEURO: A&Ox3, face symmetric, MAE
SKIN: warm and dry
 
 
Pertinent Results:
ADMISSION LABS
==============
___ 06:00PM   WBC-9.2 RBC-5.04 HGB-14.5 HCT-44.4 MCV-88 
MCH-28.8 MCHC-32.7 RDW-14.1 RDWSD-45.2
___ 06:00PM   NEUTS-49.8 ___ MONOS-6.4 EOS-1.8 
BASOS-0.7 IM ___ AbsNeut-4.59 AbsLymp-3.79* AbsMono-0.59 
AbsEos-0.17 AbsBaso-0.06
___ 06:00PM   GLUCOSE-116* UREA N-9 CREAT-0.7 SODIUM-139 
POTASSIUM-3.6 CHLORIDE-100 TOTAL CO2-29 ANION GAP-14
___ 06:00PM   cTropnT-<0.01
 
PERTINENT STUDIES
=================
___ 06:08AM BLOOD CK-MB-3 cTropnT-<0.01
___ 12:30PM URINE Color-Straw Appear-Clear Sp ___
___:30PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG 
 
IMAGING
=======
CHEST (PA & LAT) Study Date of ___ 2:47 ___
No radiopaque foreign body seen projecting over the course of 
the esophagus. 
 
___ EGD
Impression: Erythema, friability and congestion with exudates in 
the lower third of the esophagus and middle third of the 
esophagus compatible with esophagitis (biopsy)
Otherwise normal EGD to third part of the duodenum 
 
Recommendations: - Will contact you with biopsy results 
- Start PO Omeprazole 40 mg Q12H for now 
- Diet as tolerated 
 
DISCHARGE LABS
==============
___ 06:15AM BLOOD Glucose-90 UreaN-9 Creat-0.8 Na-141 K-3.9 
Cl-105 HCO3-23 AnGap-17
___ 06:15AM BLOOD Calcium-8.6 Phos-3.1 Mg-1.___ female with history of HTN, HLD, IFGT and obesity who 
presented with 2 days of odynophagia to solids and liquids 
without evidence of airway compromise, autoimmune symptoms, 
anemia or abscess. She underwent upper endoscopy which was 
notable for esophagitis without evidence of bleeding. Mucosal 
biopsies pending at time of discharge. Patient responded to IV 
PPI BID and continued to improve on oral PPI BID. She was 
tolerating regular diet and was discharged on omeprazole 40mg 
BID with PCP follow up. 
 
# Odynophagia
Presented with 2 days of throat pain, subjective throat 
swelling, and inability to swallow. Initially there was concern 
for cardiac etiology given sub-sternal nature of the pain, but 
EKG unremarkable for ischemia and troponin was negative x 2. No 
foreign body identified on CXR, no pneumomediastinum or 
subcutaneous emphysema. Treated with diltiazem for concern for 
diffuse esophageal spasm but patient did not respond to this 
therapy. Patient underwent EGD ___ that showed erythema and 
exudates in mid and distal esophagus which likely represents 
esophagitis from reflux. She was started on IV PPI BID with good 
response to anti-reflux therapy. She was tolerating regular diet 
and was discharged on omeprazole 40mg BID with PCP follow up. 
___ biopsies pending at time of discharge.  
 
CHRONIC ISSUES
 
# HTN: home medications initially held given normotension and 
poor oral intake. BP rose after endoscopy and with resumption of 
oral nutrition. Restarted home lisinopril 10mg QD, 
triamterene-HCTZ (37.5/25) QD. 
 
# HLD: home statin initially held given interaction between 
pravastatin and diltiazem for possible esophageal spasm. 
Diltiazem was discontinued and restarted home simvastatin 20mg 
QD
 
# Allergic rhinitis: stable. Continued home fluticasone and held 
home cetirizine-pseudoephedrine.
 
 
# Code: Full, confirmed
# Communication: ___ (son) ___
 
 
TRANSITIONAL ISSUES
===================
[ ] started on BID omeprazole 40mg
[ ] mucosal biopsies pending at discharge
 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 10 mg PO DAILY 
2. Simvastatin 20 mg PO QPM 
3. Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY 
4. Fluticasone Propionate NASAL 2 SPRY NU DAILY 
5. cetirizine-pseudoephedrine ___ mg oral Q12H 
6. Ibuprofen 800 mg PO Q8H:PRN Pain - Moderate 

 
Discharge Medications:
1.  Omeprazole 40 mg PO Q12H 
RX *omeprazole 40 mg 1 capsule(s) by mouth every twelve (12) 
hours Disp #*60 Capsule Refills:*0 
2.  cetirizine-pseudoephedrine ___ mg oral Q12H  
3.  Fluticasone Propionate NASAL 2 SPRY NU DAILY  
4.  Ibuprofen 800 mg PO Q8H:PRN Pain - Moderate  
5.  Lisinopril 10 mg PO DAILY  
6.  Simvastatin 20 mg PO QPM  
7.  Triamterene-HCTZ (37.5/25) 1 CAP PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY: 
Reflux esophagitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ on ___ with painful swallowing. You 
had an endoscopy that showed damage from acid reflux. You were 
started on a twice daily acid blocking medication and your 
symptoms improved. You were able to eat and drink prior to 
leaving the hospital. 
 
Please continue to take the acid blocker omeprazole, twice a 
day.
 
Follow up with your primary care physician.

If you develop throat swelling, drooling, voice changes, 
shortness of breath or have bloody vomiting, please contact your 
physician immediately or return to the hospital.

We wish you the best in health.

Sincerely,
Your ___ Team
 
Followup Instructions:
___